US04021221
27.3 g (0.23 mole) of thionyl chloride were added dropwise, whilst stirring, to a solution of 36.5 g (0.2 mole) of 1-methyl-1(2-hydroxyethyl)-phospholanium chloride in 200 ml of chloroform and a small amount of dimethylformamide at 65° C. When the evolution of hydrogen chloride had subsided, the reaction mixture was concentrated under reduced pressure and the residue which remained was taken up in water. The solution thereby produced was treated with active charcoal and then filtered. Concentration of the filtrate under reduced pressure gave 1-methyl-1-(2-chloroethyl)-phospholanium chloride in the form of a crystal hydrate from which water was eliminated on warming at 70° C. The substance which remained melted above 250° C.

reactant | thionyl chloride | 0.23 mole, 27.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methyl-1(2-hydroxyethyl)-phospholanium chloride | 0.2 mole, 36.5 g | [Cl-].C[P+]1(CCCC1)CCO
reactant | hydrogen chloride | Cl | ClH
reactant | charcoal | C | CH4
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-methyl-1-(2-chloroethyl)-phospholanium chloride | [Cl-].C[P+]1(CCCC1)CCCl | InChI=1S/C7H15ClP.ClH/c1-9(7-4-8)5-2-3-6-9;/h2-7H2,1H3;1H/q+1;/p-1
